resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.014936
R2 0 n2 1.013843
R3 0 n4 1.000891
R4 n1 n3 0.999318
R5 n1 n5 1.017615
R6 n2 n3 0.986747
C7 n2 n6 2.82e-06
R8 n3 n7 1.008128
R9 n4 n5 1.010326
R10 n4 n6 1.004325
R11 n5 n7 0.994981
R12 n6 n7 1.009584
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
